US05082943
To a solution of 6.4 g (42 mmol) of 2-ethylaminobenzyl alcohol (prepared by reducing methyl 2-acetamidobenzoate with lithium aluminum hydride) in 90 ml of dry benzene was dropwise added under chilling with ice 4.6 ml (62 mmol) of thionyl chloride in 90 ml of dry benzene for 20 min. The mixture was stirred for 1 hr. at room temperature and subsequently 20 min. at 50° C. The solvent was distilled off under reduced pressure at a temperature below 50° C. to leave 7.7 g of 2-ethylaminobenzyl chloride hydrochloride as a brown oil. The obtained hydrochloride (7.7 g, 35 mmol) was portionwise added to a solution of 3.7 g (37 mmol) of 2-mercaptoimidazole in 60 ml of ethanol. The mixture was then stirred for 1 hr. Ethanol was distilled off under reduced pressure at a temperature below 40° C. The residue was shaken with saturated aqueous sodium hydrogencarbonate and chloroform. The chloroform portion was taken out and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was crystallized by addition of ether to give 4.78 g of the desired compound as a pale yellow crystalline powder.

reactant | 2-ethylaminobenzyl alcohol | 42 mmol, 6.4 g | C(C)NC1=C(CO)C=CC=C1 | C9H13NO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 90 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 90 ml | C1=CC=CC=C1 | C6H6
product | 2-ethylaminobenzyl chloride hydrochloride | 7.7 g | Cl.C(C)NC1=C(CCl)C=CC=C1 | InChI=1S/C9H12ClN.ClH/c1-2-11-9-6-4-3-5-8(9)7-10;/h3-6,11H,2,7H2,1H3;1H
